2144-10-27 17:34:00 Physician Attending Progress Note
Chief Complaint: Atrial Fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient this morning had evolution of worsening hypoxemia on the
   medical floor--CXR was without evidence of pulmonary edema but patient
   did evolve significant tachycardia and now is sent to ICU for further
   care with inital exam notable for-->
   Tachypnea and Tachycardia
   Rx with IV Lopressor and IV Diltiazem and move to Diltiazem gtt
   Of note patient am medications were held due to hypotension
   24 Hour Events:
   Since arrival-->
   FIO2 decreased to 0.6
   Rate decreased to 137 on dilt gtt.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-10-27**] 09:10 AM
   Metronidazole - [**2144-10-27**] 11:45 AM
   Acyclovir - [**2144-10-27**] 04:00 PM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Metoprolol - [**2144-10-27**] 09:24 AM
   Diltiazem - [**2144-10-27**] 10:30 AM
   Pantoprazole (Protonix) - [**2144-10-27**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2144-10-27**] 05:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 131 (130 - 146) bpm
   BP: 102/52(64) {102/52(64) - 119/81(88)} mmHg
   RR: 28 (20 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
             571 mL
   PO:
             TF:
   IVF:
   571 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  4,030 mL
   Urine:
   2,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -3,459 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.45/42/234//5
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
She has decreased responsiveness compared to baseline but
   still is verbally appropriate.
   Labs / Radiology
   30
        [image002.jpg]
                             [**2144-10-27**]  09:38 AM
   WBC
   0.5
   TCO2
   30
   Other labs: PT / PTT / INR://1.5, Lactic Acid:0.7 mmol/L
   Fluid analysis / Other labs: 7.45/42/234
   ANC-499
   Imaging: CXR-No significant change from previous--significant right
   sided effusion and small left sided effusion.
   CT Chest--significant right sided effusion, persistent right lower lobe
   collapse, loculated left sided anterior effusion.
   ECG: Tachycardia and irregular without clear P-waves concerning for
   atrial fibrillation
   Assessment and Plan
   59 yo female with diagnosis of Hodgkin's Lymphoma and has had hospital
   course complicated by paroxysmal atrial fibrillation.  Now she has
   evolved hypoxemia upon the medical floor and now complicated by
   tachycardia and possible evolution of atrial fibrillation.  Since
   arrival patient has had some improvement in oxygenation but tachycardia
   remains.
   1)Hypoxemia-
   -[**Month (only) 60**] be related to recurrent aspiration event as was acute onset.
   Primary insult with pulmonary edema is less likely as tachycardia was
   not initial presenting finding. PE has been evaluated with CT but does
   seem less likely, mucus plug, aspiration, further atelectasis are all
   certainly likley as primary drivers of recurrent hypoxemia.  Will-->
   -F/U final read of CTA
   -Wean O2 as possible
   -Repeat cultures as possible infectious trigger for acute changes
   -Continue with Caspo/Vanco/Cefepime/Flagyl/Vanco po
   -Monitor for worsening mental status and need for intubation
   -NPO for now
   -Unlikely CHF as primary driver here given exam and findings on imaging
   -No change in effusion and doubt contribution from this for hypoxemia
   but is not responding quickly could consider therapeutic tap of
   effusion with acceptable risk of re-accumulation.
   2)Tachycardia-Atrial Fibrillation
   -Diltiazem IV
   -Will need to Rx underlying pulmonary issue before expectation of
   improved heart rate will be seen
   -B-blocker to continue
   -Amiodarine to continue
   -Cardioversion to be considered if hemodynamic insult seen
   -Digoxin to consider start
   gg
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-10-27**] 09:29 AM
   PICC Line - [**2144-10-27**] 04:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35

2144-10-27 19:16:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath, Tachycardia
   24 Hour Events:
   [**Hospital Unit Name 44**] Transfer Note:
   Transferred out of [**Hospital Unit Name 44**] to BMT on [**10-21**].  Since [**10-22**], BMT notes
   documented a worsening O2 requirement and persistent tachycardia.  Has
   been on vanc and cefepime since [**10-15**] for febrile neutropenia.  Spiked to
   100.3 on [**10-25**] and fungal coverage was added.  Today, she was noted to
   be in acute respiratory distress with sats 84-86% on 3L NC where has
   she has previously been 93% on 3L. She got lasix 20mg IV x 2.  Her
   heart rate was noted to be in the 80s at that time.  A CXR was
   performed and unchanged from prior study, therre was no note of
   pulmonary edema.  Pt was placed on a non-rebreather and her sats
   improved to 97%. In the interim, the patient's heart increased to the
   140s. The patient was transferred to the [**Hospital Unit Name 44**] for further evaluation.
   .
   On arrival to the [**Hospital Unit Name 44**], the patient was afebrile, heart rate was 146,
   BP 106/81, RR 32 with a sat of 97% on 100% non-rebreather.  The patient
   was given 5mg IV metoprolol, and two dosed of 10mg IV diltiazem, and
   then was transitioned to an dilt drip.  The patient was titrated down
   to 60% face mask and was noted to be breathing comfortably.  Pt had not
   received her am amio, dilt or BBlocker, all were given as prescribed on
   arrival.
   .
   Medications on Transfer:
   Insulin SC  (per Insulin Flowsheet)
   Acetaminophen 325-650 mg PO Q6H:PRN
   Ipratropium Bromide Neb 1 NEB IH Q6H
   Acyclovir 400 mg IV Q8H
   Lorazepam 0.5 mg IV ONCE MR1
   Albuterol 0.083% Neb Soln 1 NEB IH Q6H
   Magnesium Sulfate Replacement (Oncology)  IV Sliding Scale
   Amiodarone 200 mg PO BID
   Caspofungin 50 mg IV Q24H
   MetRONIDAZOLE (FLagyl) 500 mg IV Q8H
   CefePIME 2 g IV Q12H
   Metoprolol Tartrate 75 mg PO TID
   Diltiazem 30 mg PO QID
   Miconazole 2% Cream 1 Appl TP [**Hospital1 **] groin
   Pantoprazole 40 mg IV Q24H
   Potassium Chloride Replacement (Oncology)  IV Sliding Scale
   Filgrastim 480 mcg SC Q24H
   Sulfameth/Trimethoprim DS 1 TAB PO MWF (MO,WE,FR)
   Heparin 5000 UNIT SC TID
   Vancomycin Oral Liquid 250 mg PO Q6H
   Vancomycin 1000 mg IV Q 12H
   .
   All: NKDA
   History obtained from Medical records, BMT resident
   Allergies:
   History obtained from Medical records, BMT residentNo Known Drug
   Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-10-27**] 09:10 AM
   Metronidazole - [**2144-10-27**] 11:45 AM
   Acyclovir - [**2144-10-27**] 04:00 PM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Metoprolol - [**2144-10-27**] 09:24 AM
   Diltiazem - [**2144-10-27**] 10:30 AM
   Pantoprazole (Protonix) - [**2144-10-27**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   - Hodgkins lymphoma, s/p EACoPP protocol on [**2144-7-21**] with cytoxan,
   doxorubacin on day 1 and etoposide on days [**2-13**]. Started ICE on
   [**2144-10-9**].
   - Complication of pericardial tamponade s/p pericardiocentesis on
   [**2144-6-24**] and pericardial window on [**2144-7-25**].
   - Paroxysmal a-fib with rate up to 160 and associated relative
   hypotension, no anticoagulation 2/2 blood pericardial effusion.
   - Mental retardation of unknown etiology.
   - H/o ileus requiring occasional rectal tube
   - Status post volvulus and sigmoid resection.
   - DJD
   - Bilateral knock knees (talus valgus, pes planus).
   - Neurodermatitis.
   - Psoriasis.
   - History of obesity.
   - Status post left oophorectomy.
   - Microcytic, iron deficiency anemia, recently started on iron
   - GERD
   - S/p left nephrectomy
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2144-10-27**] 07:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 137 (130 - 146) bpm
   BP: 94/54(62) {94/45(56) - 119/81(88)} mmHg
   RR: 25 (20 - 33) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
             618 mL
   PO:
             TF:
   IVF:
   618 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  4,030 mL
   Urine:
   2,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -3,412 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: 7.45/42/234//5
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: No acute distress, No(t) Anxious
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , No(t) Wheezes : ,
   Diminished: R>L, No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
                             [**2144-10-27**]  09:38 AM
   TCO2
   30
   Other labs: Lactic Acid:0.7 mmol/L
   Assessment and Plan
   59 y/o F with h/o mental retardation, recent dx of Nodular sclerosing
   Hodgkins Lymphoma s/p chemo on [**2144-10-9**] presented with tachycardia and
   respiratory distress.
   .
   Respiratory distress - Increased O2 requirement this am.  CXR
   unchanged.  ECHO borderline pulmonary hypertension. Patient has history
   of aspiration and mucus plugging.  Lasix given for concern of pulmonary
   edema.  Pt also restarted on soft diet after transfer from unit.  Has
   extensive history of aspiration.
   - PE CT chest - r/o PE
   - cont nebs
   - wean O2 as tolerated
   - chest PT
   - thoracentesis tomorrow, will need platelets prior to procedure
   .
    # Paroxysmal A-fib: Multiple recent admissions to ICU due to poor rate
   control rates in 140s, otherwise hemodynamically stable.  Patient has
   long history of atrial fibrillation with RVR.  Typically not responsive
   to IV BBlocker.  Often spontaneously converts.  On BBlocker, Diltiazem
   and Amiodarone.  Had not received am meds.  AM meds given, plus
   additional IV BB and dilt before transitioning to Dilt drip.
   - on telemetry
   - repeat EKG
   - dilt gtt
   - continue BBlocker, titrate as blood pressure will tolerate
   - continue amiodarone at current dose
   - given, uncertaintly of sinus versus fib, will try dosing with
   adenosine to be assess rhythm
   - consider digoxin if in fib and persistently tachycardia
   .
   # Hodgkins Lymphoma: Pt is s/p EACoPP protocol on [**2144-7-21**] with
   cytoxan, doxorubacin on day 1 and etoposide on days [**2-13**]. Pt has also
   had pericardial tamponade s/p pericardiocentesis on [**2144-6-24**] and
   pericardial window on [**2143-7-25**]. Pt initiated ICE chemo reg on
   [**2144-10-9**].  WBC trending down after chemotherapy. Ideally should be
   transfused for hct>30 to maintain oxygenation.
   - continue Acyclovir & Bactrim ppx
   - crit today is 24.9, HCT goal 25, plt goal 20
   - patient is now neutropenic with decreased platelets likely secondary
   to chemo nadir, on filgrastrim
   - continue vanc, cefepime and caspo for empiric neutropenic coverage
   # H/o megacolon/Diarrhea: Pt is s/p volvulous & sigmoid resection with
   large dilated loops of colon visible on portable films.  She has
   required intermittent rectal tubes.  recent C. Diff toxin + [**2144-8-8**] &
   [**2144-9-1**].  C. diff [**10-19**] negative.
   - pt on definitive treatment for C. diff with IV flagyl and PO vanco
   - will continue for as long as patient on additional antibiotics
   .
   # F/E/N: Was transferred from unit on tube feeds and transitioned to
   soft regular diet and thin liquids following speech and swallow
   evaluation.  Patient has extensive history of aspiration.
   - NPO for now
   - restart tube feeds tomorrow if stable
   - replete lytes per onc sliding scales
   # PPX: PPI, no heparin for low platelets
   # CODE: Intubate/DNR
   # ACCESS: RIJ 3 lumen placed during prior [**Hospital Unit Name 44**] admission, will pull
   today and place PICC
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2144-10-27**] 09:29 AM
   PICC Line - [**2144-10-27**] 04:58 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2144-10-28 07:32:00 Physician Resident Progress Note
Chief Complaint: SOB, tachycardia
   24 Hour Events:
 MULTI LUMEN - START [**2144-10-27**] 09:29 AM
 MULTI LUMEN - STOP [**2144-10-27**] 02:00 PM
 PICC LINE - START [**2144-10-27**] 04:58 PM
   PE-CT: no obvious clot, but motion artefact.
   ICU consent signed over phone with brother
   [**Name (NI) 5407**] today @ 2PM, need PLTs >50 and INR <1.8
   Transfusion goal 25; received 1 unit. Check HTC afterwards
   Platelets ordered for tomorrow AM
   Central line was pulled out.
   Right PICC placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2144-10-27**] 11:45 AM
   Caspofungin - [**2144-10-27**] 07:11 PM
   Acyclovir - [**2144-10-28**] 12:18 AM
   Cefipime - [**2144-10-28**] 12:18 AM
   Vancomycin - [**2144-10-28**] 06:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2144-10-27**] 09:24 AM
   Diltiazem - [**2144-10-27**] 10:30 AM
   Pantoprazole (Protonix) - [**2144-10-27**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-28**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.7
C (96.3
   HR: 63 (58 - 146) bpm
   BP: 110/71(78) {86/36(51) - 119/81(88)} mmHg
   RR: 29 (20 - 33) insp/min
   SpO2: 85%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
           Total In:
                                                                  1,332 mL
                                                                    491 mL
   PO:
           TF:
   IVF:
                                                                  1,196 mL
                                                                    351 mL
   Blood products:
                                                                    136 mL
                                                                    140 mL
   Total out:
                                                                  4,300 mL
                                                                    275 mL
   Urine:
                                                                  2,500 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,968 mL
                                                                    216 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 85%
   ABG: 7.45/42/234/31/5
   PaO2 / FiO2: 468
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   27 K/uL
   8.6 g/dL
   92 mg/dL
   0.3 mg/dL
   31 mEq/L
   3.5 mEq/L
   10 mg/dL
   109 mEq/L
   144 mEq/L
   24.8 %
   0.8 K/uL
        [image002.jpg]
                             [**2144-10-27**]  09:38 AM
                             [**2144-10-28**]  04:39 AM
   WBC
   0.8
   Hct
   24.8
   Plt
   27
   Cr
   0.3
   TCO2
   30
   Glucose
   92
   Other labs: PT / PTT / INR:16.5/26.9/1.5, Lactic Acid:0.7 mmol/L,
   Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   59 y/o F with h/o mental retardation, recent dx of Nodular sclerosing
   Hodgkins Lymphoma s/p chemo on [**2144-10-9**] presented with tachycardia and
   respiratory distress.
   .
   Respiratory distress - Increased O2 requirement this am.  CXR
   unchanged.  ECHO borderline pulmonary hypertension. Patient has history
   of aspiration and mucus plugging.  Lasix given for concern of pulmonary
   edema.  Pt also restarted on soft diet after transfer from unit.  Has
   extensive history of aspiration.
   - PE CT chest - r/o PE
   - cont nebs
   - wean O2 as tolerated
   - chest PT
   - thoracentesis tomorrow, will need platelets prior to procedure
   .
    # Paroxysmal A-fib: Multiple recent admissions to ICU due to poor rate
   control rates in 140s, otherwise hemodynamically stable.  Patient has
   long history of atrial fibrillation with RVR.  Typically not responsive
   to IV BBlocker.  Often spontaneously converts.  On BBlocker, Diltiazem
   and Amiodarone.  Had not received am meds.  AM meds given, plus
   additional IV BB and dilt before transitioning to Dilt drip.
   - on telemetry
   - repeat EKG
   - dilt gtt
   - continue BBlocker, titrate as blood pressure will tolerate
   - continue amiodarone at current dose
   - given, uncertaintly of sinus versus fib, will try dosing with
   adenosine to be assess rhythm
   - consider digoxin if in fib and persistently tachycardia
   .
   # Hodgkins Lymphoma: Pt is s/p EACoPP protocol on [**2144-7-21**] with
   cytoxan, doxorubacin on day 1 and etoposide on days [**2-13**]. Pt has also
   had pericardial tamponade s/p pericardiocentesis on [**2144-6-24**] and
   pericardial window on [**2143-7-25**]. Pt initiated ICE chemo reg on
   [**2144-10-9**].  WBC trending down after chemotherapy. Ideally should be
   transfused for hct>30 to maintain oxygenation.
   - continue Acyclovir & Bactrim ppx
   - crit today is 24.9, HCT goal 25, plt goal 20
   - patient is now neutropenic with decreased platelets likely secondary
   to chemo nadir, on filgrastrim
   - continue vanc, cefepime and caspo for empiric neutropenic coverage
   # H/o megacolon/Diarrhea: Pt is s/p volvulous & sigmoid resection with
   large dilated loops of colon visible on portable films.  She has
   required intermittent rectal tubes.  recent C. Diff toxin + [**2144-8-8**] &
   [**2144-9-1**].  C. diff [**10-19**] negative.
   - pt on definitive treatment for C. diff with IV flagyl and PO vanco
   - will continue for as long as patient on additional antibiotics
   .
   # F/E/N: Was transferred from unit on tube feeds and transitioned to
   soft regular diet and thin liquids following speech and swallow
   evaluation.  Patient has extensive history of aspiration.
   - NPO for now
   - restart tube feeds tomorrow if stable
   - replete lytes per onc sliding scales
   # PPX: PPI, no heparin for low platelets
   # CODE: Intubate/DNR
   # ACCESS: RIJ 3 lumen placed during prior [**Hospital Unit Name 44**] admission, will pull
   today and place PICC
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-10-27**] 04:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2144-10-28 09:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory Distress
   Atrial Fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2144-10-27**] 09:29 AM
 MULTI LUMEN - STOP [**2144-10-27**] 02:00 PM
 PICC LINE - START [**2144-10-27**] 04:58 PM
   CVL D/C'd and PICC placed
   Dilt gtt started and patient returned to NSR overnight
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2144-10-27**] 11:45 AM
   Caspofungin - [**2144-10-27**] 07:11 PM
   Cefipime - [**2144-10-28**] 12:18 AM
   Acyclovir - [**2144-10-28**] 08:00 AM
   Vancomycin - [**2144-10-28**] 08:07 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2144-10-27**] 10:30 AM
   Pantoprazole (Protonix) - [**2144-10-27**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Tachycardia
   Flowsheet Data as of  [**2144-10-28**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.9
C (96.7
   HR: 61 (58 - 145) bpm
   BP: 100/64(73) {86/36(51) - 119/81(88)} mmHg
   RR: 28 (20 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
           Total In:
                                                                  1,332 mL
                                                                    866 mL
   PO:
           TF:
   IVF:
                                                                  1,196 mL
                                                                    726 mL
   Blood products:
                                                                    136 mL
                                                                    140 mL
   Total out:
                                                                  4,300 mL
                                                                    375 mL
   Urine:
                                                                  2,500 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,968 mL
                                                                    491 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: 7.45/42/234/31/5
   PaO2 / FiO2: 468
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Alopecia
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   27 K/uL
   92 mg/dL
   0.3 mg/dL
   31 mEq/L
   3.5 mEq/L
   10 mg/dL
   109 mEq/L
   144 mEq/L
   24.8 %
   0.8 K/uL
        [image002.jpg]
                             [**2144-10-27**]  09:38 AM
                             [**2144-10-28**]  04:39 AM
   WBC
   0.8
   Hct
   24.8
   Plt
   27
   Cr
   0.3
   TCO2
   30
   Glucose
   92
   Other labs: PT / PTT / INR:16.5/26.9/1.5, Lactic Acid:0.7 mmol/L,
   Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Imaging: CT Scan -Chest
   Loculated left sided effusion with small volume of fluid
   Significant right sided effusion which has not changed in size from
   previous examination some months ago
   Assessment and Plan
   59 yo female with history of Hodgkin's Disease now admit to ICU with
   worsening respiratory distress.  This event was followed by significant
   tachycardia and likely evolution of atrial fibrillation as a secondary
   trigger.  Interestingly her pulmonary exam and pulmonary imaging does
   not reveal a significant new insult leaving recurrent aspiration,
   intermittent collapse, pulmonary edema or new pulmonary infection as
   most likely sources for the changes.  Of note patient overnight did
   have significant negative fluid balance with Lasix given.  There is an
   open question as to the relative contribution of the right sided
   effusion to the ongoing respiratory compromise.
   1)Respiratory Distress
based on response to diuresis certainly some
   component of volume overload may have been at play.  CTA shows no
   evidence of pulmonary emboli but was a limited study.   Her effusion
   really looks unchanged from previous.  This episode may have been a
   component of volume overload, small areas of mucus plugging and
   background compromise of respiratory status with chronic at this point
   effusions.
   -Continue with negative fluid balance
   -If effusion is tapped would have to consider continued drainage to
   allow time for re-expansion of lung which has been chronically
   collapsed and unlikely to re-expand quickly.
   -Wean O2 as possible to goal of NC support as was seen on the onc floor
   (3 lpm)
   -Have discussed with IP the possibility of drainage of the effusion and
   the risk of chest tube drainage would be substantial in neutorpenic
   state and we would favor a trial of thoracentesis to look for evidence
   of clinical response and consider chronic drainage only with clinical
   improvement seen and reaccumulation noted.
   2)Atrial Fibrillation
   -Continue with Amiodarone
   -Continue with beta blocker in place
   -Dilt gtt. Stopped
   -Given current sinus bradycardia would be cautious with further nodal
   blockade
   3)ID/Lymphoma
   -Prophylactic-
   Bactrim/Acyclovir
   -C. Diff-
   Flagyl/po Vanco
   -Febrile Neutropenia-
   Vanco/Cefepime/Caspo
   gg
   ICU Care
   Nutrition: npo
will move to po intake with aspiration precautions per
   speech and swallow
   Glycemic Control:
   Lines:
   PICC Line - [**2144-10-27**] 04:58 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)/Accept Intubation
   Disposition :ICU
   Total time spent: 45 minutes

2144-10-29 06:41:00 Physician Resident Progress Note
Chief Complaint: SOB and AF/AFl in OMED service.
   24 Hour Events:
 THORACENTESIS - At [**2144-10-28**] 05:05 PM
   -Patient off diltiazem drip yesterday with adequate HR.
   -CT chest yesterday  with large pleural effusions right sided, with
   right lower lobe collapse, left side loculated effusions - appears
   unchanged from CT scan [**10-6**]
   - Thoracentesis done, with pre-transfusion with platelets, sent fluid
   for culture; No PTX on CXR.
   - speech and swallow: soft solids and thin liquids, changed diet orde
   - episode of desats to 85% at 8 pm on 15 L, got lasix 40 IV and neb
   treatments with return to 96%, HR 63, BP 110/50
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2144-10-28**] 06:00 PM
   Caspofungin - [**2144-10-28**] 07:54 PM
   Vancomycin - [**2144-10-28**] 09:00 PM
   Cefipime - [**2144-10-29**] 12:00 AM
   Acyclovir - [**2144-10-29**] 12:33 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-10-28**] 04:00 PM
   Furosemide (Lasix) - [**2144-10-28**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-29**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96
   HR: 69 (59 - 80) bpm
   BP: 106/47(61) {87/40(51) - 138/109(114)} mmHg
   RR: 26 (11 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,691 mL
                                                                    319 mL
   PO:
             TF:
   IVF:
                                                                  1,973 mL
                                                                    319 mL
   Blood products:
                                                                    718 mL
   Total out:
                                                                  3,445 mL
                                                                    830 mL
   Urine:
                                                                  1,945 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
                                                                  1,500 mL
   Balance:
                                                                   -754 mL
                                                                   -511 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: 7.36/59/89.[**Numeric Identifier 128**]/33/5
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present), No JVD
   seen.
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   57 K/uL
   9.3 g/dL
   90 mg/dL
   0.3 mg/dL
   33 mEq/L
   3.3 mEq/L
   9 mg/dL
   106 mEq/L
   142 mEq/L
   27.2 %
   1.4 K/uL
        [image002.jpg]
                             [**2144-10-27**]  09:38 AM
                             [**2144-10-28**]  04:39 AM
                             [**2144-10-28**]  10:31 PM
                             [**2144-10-29**]  05:00 AM
   WBC
   0.8
   1.4
   Hct
   24.8
   27.2
   Plt
   27
   57
   Cr
   0.3
   0.3
   TCO2
   30
   35
   Glucose
   92
   90
   Other labs: PT / PTT / INR:16.5/26.9/1.5, Lactic Acid:0.7 mmol/L,
   Albumin:2.2 g/dL, LDH:118 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   59 y/o F with h/o mental retardation, recent dx of Nodular sclerosing
   Hodgkins Lymphoma s/p chemo on [**2144-10-9**] presented with tachycardia and
   respiratory distress.
   .
   Respiratory distress
 O2 requirements improved from yesterday with
   diuresis. The possible etiologies for Ms. [**Known lastname 3077**] are mucus plug or
   atelectases in the setting of a negative PE-CT scan (confirmed with
   radiology despite wording on report); patient improved slightly after
   thoracocentesis yesterday, but had an hypoxic episode overnight and
   another one this AM. Chest X-Ray with worsening pulmonary edema.
   Patient with multiple episodes of witnessed aspiration.
   -          Increase laxix PRN
   -          Start Lasix standing
   -          Re-eval by S&S
   -          Talk about goals of care with family
   -          PM lytes due to increase in diuretics
   -          Goal I/O negative 1L
   -          Chest PT
   -          Continue nebs
   .
    # Paroxysmal A-fib: Patient on and off atrial fibrillation/flutter.
   Sometimes rate controlled, sometimes with RVR. Patient with pericardial
   effusion and multiple pulmonary processes, which may be precipitating
   AF/Fl. Currently on amiodarone, diltiazem and metoprolol. Diltiazem
   drip was stopped in AM. If patient has another episode we will consider
   loading digoxin.
   - on telemetry
   - repeat EKG
   - continue BBlocker, titrate as blood pressure will tolerate
   - continue amiodarone at current dose
   - consider digoxin if in fib and persistently tachycardia
   .
   # Hodgkins Lymphoma: Pt is s/p EACoPP protocol on [**2144-7-21**] with
   cytoxan, doxorubacin on day 1 and etoposide on days [**2-13**]. Pt has also
   had pericardial tamponade s/p pericardiocentesis on [**2144-6-24**] and
   pericardial window on [**2143-7-25**]. Pt initiated ICE chemo reg on
   [**2144-10-9**].  WBC trending down after chemotherapy. Ideally should be
   transfused for hct>30 to maintain oxygenation.
   - continue Acyclovir & Bactrim ppx
   - patient is with increase WBC today; will add diff
   - continue vanc, cefepime and caspo for empiric neutropenic coverage
   # H/o megacolon/Diarrhea: Pt is s/p volvulous & sigmoid resection with
   large dilated loops of colon visible on portable films.  She has
   required intermittent rectal tubes.  recent C. Diff toxin + [**2144-8-8**] &
   [**2144-9-1**].  C. diff [**10-19**] negative.
   - pt on definitive treatment for C. diff with IV flagyl and PO vanco
   - will continue for as long as patient on additional antibiotics
   .
   # F/E/N: Diet per S&S rrecs.
   - replete lytes per onc sliding scales
   # PPX: PPI, no heparin for low platelets
   # CODE: Intubate/DNR
   # ACCESS: right arm PICC
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) 893**]
   #Dispo: ICU for now until respiratory stable and BP/HR monitoring.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-10-27**] 04:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2144-10-29 10:59:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 yo with mental retardation, hodgkins lymphoma, recurrent respiratory
   failure.  Large b/l effusions, recurrent aspiration are thought to be
   causeo of respiratory failure.  Orginally admitted to hospital for
   respiratory failure was intubated in MICU.  Improved, went to floor,
   and returned to MICU yesterday with respiratory distress.  Had CTPA
   negative for PE.  Got diuresed with some improvement.  But still
   periodically desaturating.
   24 Hour Events:
 THORACENTESIS - At [**2144-10-28**] 05:05 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2144-10-28**] 07:54 PM
   Cefipime - [**2144-10-29**] 12:00 AM
   Acyclovir - [**2144-10-29**] 07:30 AM
   Vancomycin - [**2144-10-29**] 07:30 AM
   Metronidazole - [**2144-10-29**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-10-28**] 04:00 PM
   Furosemide (Lasix) - [**2144-10-29**] 10:24 AM
   Other medications:
   amiodarone
   protonix
   lopressor
   filgastrim
   albuterol
   bacterim
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-29**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.1
C (95.2
   HR: 57 (57 - 80) bpm
   BP: 111/43(52) {87/40(51) - 138/109(114)} mmHg
   RR: 26 (11 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 102 kg (admission): 90 kg
   Height: 67 Inch
             Total In:
                                                                  2,691 mL
                                                                    923 mL
   PO:
             TF:
   IVF:
                                                                  1,973 mL
                                                                    923 mL
   Blood products:
                                                                    718 mL
   Total out:
                                                                  3,890 mL
                                                                    975 mL
   Urine:
                                                                  2,390 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
                                                                  1,500 mL
   Balance:
                                                                 -1,199 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.36/59/89.[**Numeric Identifier 128**]/33/5
   PaO2 / FiO2: 99
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Tactile stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   57 K/uL
   90 mg/dL
   0.3 mg/dL
   33 mEq/L
   3.3 mEq/L
   9 mg/dL
   106 mEq/L
   142 mEq/L
   27.2 %
   1.4 K/uL
        [image002.jpg]
                             [**2144-10-27**]  09:38 AM
                             [**2144-10-28**]  04:39 AM
                             [**2144-10-28**]  10:31 PM
                             [**2144-10-29**]  05:00 AM
   WBC
   0.8
   1.4
   Hct
   24.8
   27.2
   Plt
   27
   57
   Cr
   0.3
   0.3
   TCO2
   30
   35
   Glucose
   92
   90
   Other labs: PT / PTT / INR:16.5/27.0/1.5, Lactic Acid:0.7 mmol/L,
   Albumin:2.2 g/dL, LDH:118 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   Respiratory distress:  Likely multifactorial due to pulmonary
   edema/effusions which are transduative and recurrent aspiration.  PE
   ruled out.  Responding to lasix.  Continue
   diuresis.
   Paraoxysmal AF:  Currently in sinus
   Hodgkins:  Was neutropenic but counts improved today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-10-27**] 04:58 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2144-10-30 07:11:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2144-10-29**] 12:00 PM
   - Patient progressively hypercarbic respiratory distress. She was
   placed and improved on BIPAP. HD stable.
   -both Urine and sputum ctx's positive for yeast
   -Dr.[**First Name (STitle) 1422**] consulted rad onc- will f/u recs
   -Pt was agitated overnight, pulling at tele leads- given.5 ativan, 1mg
   haldol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-10-29**] 08:00 PM
   Caspofungin - [**2144-10-29**] 08:00 PM
   Acyclovir - [**2144-10-30**] 12:00 AM
   Cefipime - [**2144-10-30**] 12:00 AM
   Metronidazole - [**2144-10-30**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2144-10-29**] 01:00 PM
   Pantoprazole (Protonix) - [**2144-10-29**] 04:00 PM
   Lorazepam (Ativan) - [**2144-10-29**] 11:42 PM
   Haloperidol (Haldol) - [**2144-10-30**] 01:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-30**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 112 (56 - 122) bpm
   BP: 95/55(66) {89/42(52) - 124/71(85)} mmHg
   RR: 24 (9 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 102 kg (admission): 90 kg
   Height: 67 Inch
             Total In:
                                                                  1,990 mL
                                                                    384 mL
   PO:
             TF:
   IVF:
                                                                  1,990 mL
                                                                    384 mL
   Blood products:
   Total out:
                                                                  7,035 mL
                                                                  2,040 mL
   Urine:
                                                                  7,035 mL
                                                                  2,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,045 mL
                                                                 -1,656 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 439 (435 - 439) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   SpO2: 96%
   ABG: 7.43/56/115/36/11
   Ve: 8.1 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No JVD
   visible.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   No(t) Tender:
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   56 K/uL
   9.7 g/dL
   101 mg/dL
   0.2 mg/dL
   36 mEq/L
   3.9 mEq/L
   6 mg/dL
   103 mEq/L
   145 mEq/L
   28.4 %
   1.9 K/uL
        [image002.jpg]
                             [**2144-10-27**]  09:38 AM
                             [**2144-10-28**]  04:39 AM
                             [**2144-10-28**]  10:31 PM
                             [**2144-10-29**]  05:00 AM
                             [**2144-10-29**]  11:09 AM
                             [**2144-10-29**]  02:20 PM
                             [**2144-10-29**]  04:41 PM
                             [**2144-10-30**]  02:37 AM
                             [**2144-10-30**]  05:24 AM
   WBC
   0.8
   1.4
   1.9
   Hct
   24.8
   27.2
   28.4
   Plt
   27
   57
   56
   Cr
   0.3
   0.3
   0.3
   0.3
   0.2
   TCO2
   30
   35
   37
   38
   Glucose
   92
   90
   83
   81
   101
   Other labs: PT / PTT / INR:16.5/27.0/1.5, Differential-Neuts:66.0 %,
   Band:18.0 %, Lymph:9.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.8
   mmol/L, Albumin:2.2 g/dL, LDH:118 IU/L, Ca++:8.6 mg/dL, Mg++:1.4 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   59 y/o F with h/o mental retardation, recent dx of Nodular sclerosing
   Hodgkins Lymphoma s/p chemo on [**2144-10-9**] presented with tachycardia and
   respiratory distress.
   .
   Respiratory distress
 Patient doing better overall, but had episode of
   hypercarbic distress. Patient responded to diuretics and improving.
   Patient with transudate pleural effusion that reaccumulated after tap.
   No signs of CHF on echocardiogram, but behaving as CHF exacerbation. No
   room for ACEI now since BP is too labile. Patient also at high risk of
   aspiration, since she has had multiple witnessed episodes.
   -          Continue laxix PRN
   -          Continue Lasix standing
   -          Goal I/O negative 1L
   -          Chest PT
   -          Continue nebs
   .
    # Paroxysmal A-fib: Patient on and off atrial fibrillation/flutter.
   Sometimes rate controlled, sometimes with RVR. Patient with pericardial
   effusion and multiple pulmonary processes, which may be precipitating
   AF/Fl. Currently on amiodarone, diltiazem and metoprolol. Diltiazem
   drip was stopped in AM. If patient has another episode we will consider
   loading digoxin.
   - on telemetry
   - continue BBlocker, titrate as blood pressure will tolerate
   - continue amiodarone at current dose
   - consider digoxin if in fib and persistently tachycardia
   .
   # Hodgkins Lymphoma: Pt is s/p EACoPP protocol on [**2144-7-21**] with
   cytoxan, doxorubacin on day 1 and etoposide on days [**2-13**]. Pt has also
   had pericardial tamponade s/p pericardiocentesis on [**2144-6-24**] and
   pericardial window on [**2143-7-25**]. Pt initiated ICE chemo reg on
   [**2144-10-9**].  Patient no longer neutropenic. Ideally should be transfused
   for hct>30 to maintain oxygenation.
   - continue Acyclovir & Bactrim ppx
   - can stop  vanc, cefepime and caspo for empiric neutropenic coverage
   # H/o megacolon/Diarrhea: Pt is s/p volvulous & sigmoid resection with
   large dilated loops of colon visible on portable films.  She has
   required intermittent rectal tubes.  recent C. Diff toxin + [**2144-8-8**] &
   [**2144-9-1**].  C. diff [**10-19**] negative.
   - pt on definitive treatment for C. diff with IV flagyl and PO vanco
   - will continue for as long as patient on additional antibiotics
   .
   # F/E/N: Diet per S&S rrecs.
   - replete lytes per onc sliding scales
   # PPX: PPI, no heparin for low platelets
   # CODE: Intubate/DNR
   # ACCESS: right arm PICC
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) 893**]
   #Dispo: ICU for now until respiratory stable and BP/HR monitoring.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-10-27**] 04:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2144-10-30 11:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory Compromise
   Atrial Fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2144-10-29**] 12:00 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2144-10-29**] 08:00 PM
   Acyclovir - [**2144-10-30**] 12:00 AM
   Cefipime - [**2144-10-30**] 12:00 AM
   Metronidazole - [**2144-10-30**] 02:00 AM
   Vancomycin - [**2144-10-30**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2144-10-29**] 01:00 PM
   Pantoprazole (Protonix) - [**2144-10-29**] 04:00 PM
   Lorazepam (Ativan) - [**2144-10-29**] 11:42 PM
   Haloperidol (Haldol) - [**2144-10-30**] 01:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-30**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 109 (57 - 122) bpm
   BP: 102/67(73) {89/42(55) - 124/71(85)} mmHg
   RR: 25 (9 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 102 kg (admission): 90 kg
   Height: 67 Inch
             Total In:
                                                                  1,990 mL
                                                                    726 mL
   PO:
             TF:
   IVF:
                                                                  1,990 mL
                                                                    726 mL
   Blood products:
   Total out:
                                                                  7,035 mL
                                                                  2,200 mL
   Urine:
                                                                  7,035 mL
                                                                  2,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,045 mL
                                                                 -1,474 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 439 (435 - 439) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   SpO2: 97%
   ABG: 7.43/56/115/36/11
   Ve: 8.1 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   56 K/uL
   101 mg/dL
   0.2 mg/dL
   36 mEq/L
   3.9 mEq/L
   6 mg/dL
   103 mEq/L
   145 mEq/L
   28.4 %
   1.9 K/uL
        [image002.jpg]
                             [**2144-10-27**]  09:38 AM
                             [**2144-10-28**]  04:39 AM
                             [**2144-10-28**]  10:31 PM
                             [**2144-10-29**]  05:00 AM
                             [**2144-10-29**]  11:09 AM
                             [**2144-10-29**]  02:20 PM
                             [**2144-10-29**]  04:41 PM
                             [**2144-10-30**]  02:37 AM
                             [**2144-10-30**]  05:24 AM
   WBC
   0.8
   1.4
   1.9
   Hct
   24.8
   27.2
   28.4
   Plt
   27
   57
   56
   Cr
   0.3
   0.3
   0.3
   0.3
   0.2
   TCO2
   30
   35
   37
   38
   Glucose
   92
   90
   83
   81
   101
   Other labs: PT / PTT / INR:16.5/27.0/1.5, Differential-Neuts:76.0 %,
   Band:8.0 %, Lymph:8.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.2 g/dL, LDH:118 IU/L, Ca++:8.6 mg/dL, Mg++:1.4 mg/dL, PO4:2.1
   mg/dL
   Imaging: CXR--Improved aeration of lungs bilaterally.
   Assessment and Plan
   59 yo female with history of Hodgkin's Lymphoma and admission with
   respiratory compromise and tachycardia who is now s/p tap of
   signfiicant effusion with a trend to improved CXR findings but
   persistent O2 requirement and tachycardia.  She has had excellent
   response to diuresis and positive airway pressure in regards to lung
   expansion.
   1)Respiratory Failure-
   -Intermittent BIPAP at night may provide some additional support and
   maintain lung recruitment in the setting of bed-ridden status and
   inability to comply with incentive spirometry
   -Continue with negative fluid balance today
   -Wean O2 as tolerated
   -Encouraging trend seen
   2)Atrial Fibrillation/Tachycardia
   -Rate control as possible with Dilt gtt.
   -Continue telemetry
   -Amiodarone, Beta Blocker but still recurrent issue
   -Will trial Digoxin load to maintain stabilization of HR
   3)Lymhoma-
   ANC has improved
   -Will discuss D/C of phophylaxis after discussion with oncology team.
   ICU Care
   Nutrition: continue with po inatke supervised
   Glycemic Control:
   Lines:
   PICC Line - [**2144-10-27**] 04:58 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes

2144-10-31 06:53:00 Physician Resident Progress Note
Chief Complaint: 59 year old female with MR, recent dx of nodular
   sclerosing hodgkins lymphoma s/p chemo on 8.29 presetned with acute
   respiratory distress likely due to aspiration and mucus plugging
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2144-10-30**] 05:30 PM
 NON-INVASIVE VENTILATION - STOP [**2144-10-30**] 06:00 PM
   Yesterday, patient was net out -500 cc around 2 am, written for more
   lasix. around 6 am patient pulled picc line. nursing placed new iv.
   requested cardiology consult yesterday, cards said no to digoxin for
   atrial fibrillation better to maximize diltiazem. diltiazem was changed
   from 30 to 60 QID yesterday. Oncology said that if ANC was > 1000 then
   could d/c antibiotics, so d/c all antibiotics except for c. diff
   treatment which will continue for full course.  Got extra dose of
   neupogen.  patient moved bowels by herself yesterday. got aggressive
   chest pt. fentayl for pain.  Pleural fluid gram stain no polys, no
   microrganisms, no growth.  Urine culture growing yeast > 100, 000.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2144-10-29**] 08:00 PM
   Cefipime - [**2144-10-30**] 12:00 PM
   Acyclovir - [**2144-10-31**] 12:10 AM
   Metronidazole - [**2144-10-31**] 02:00 AM
   Vancomycin - [**2144-10-31**] 06:34 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2144-10-31**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 64 (64 - 135) bpm
   BP: 93/47(59) {85/33(44) - 124/100(126)} mmHg
   RR: 20 (9 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 90 kg
   Height: 67 Inch
             Total In:
                                                                  2,143 mL
                                                                    627 mL
   PO:
                                                                    640 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,503 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                  2,040 mL
   Urine:
                                                                  2,620 mL
                                                                  2,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -477 mL
                                                                 -1,413 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 267 (267 - 267) mL
   PS : 12 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 40%
   SpO2: 98%
   ABG: ///35/
   Ve: 7 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no murmur, regular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   60 K/uL
   10.1 g/dL
   101 mg/dL
   0.3 mg/dL
   35 mEq/L
   3.0 mEq/L
   7 mg/dL
   101 mEq/L
   142 mEq/L
   28.7 %
   3.5 K/uL
        [image002.jpg]
                             [**2144-10-27**]  09:38 AM
                             [**2144-10-28**]  04:39 AM
                             [**2144-10-28**]  10:31 PM
                             [**2144-10-29**]  05:00 AM
                             [**2144-10-29**]  11:09 AM
                             [**2144-10-29**]  02:20 PM
                             [**2144-10-29**]  04:41 PM
                             [**2144-10-30**]  02:37 AM
                             [**2144-10-30**]  05:24 AM
                             [**2144-10-31**]  04:51 AM
   WBC
   0.8
   1.4
   1.9
   3.5
   Hct
   24.8
   27.2
   28.4
   28.7
   Plt
   27
   57
   56
   60
   Cr
   0.3
   0.3
   0.3
   0.3
   0.2
   0.3
   TCO2
   30
   35
   37
   38
   Glucose
   92
   90
   83
   81
   101
   101
   Other labs: PT / PTT / INR:16.5/27.0/1.5, Differential-Neuts:76.0 %,
   Band:8.0 %, Lymph:8.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.2 g/dL, LDH:118 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   59 y/o F with h/o mental retardation, recent dx of Nodular sclerosing
   Hodgkins Lymphoma s/p chemo on [**2144-10-9**] presented with tachycardia and
   respiratory distress.
   .
   Respiratory distress
 Patient doing better overall, responded to
   diuretics. Patient with transudate pleural effusion that appears to be
   improved after tap. No signs of CHF on echocardiogram, but behaving as
   CHF exacerbation. No room for ACEI now since BP is too labile. Patient
   also at high risk of aspiration, since she has had multiple witnessed
   episodes.
   -          Continue laxix PRN in addition to standing Lasix
   -          Goal I/O negative 1L
   -          Chest PT
   -          Continue nebs
   - off antibiotics
 now off Caspo, vanc, cefepime
   # Paroxysmal A-fib: Patient on and off atrial fibrillation/flutter.
   Sometimes rate controlled, sometimes with RVR. Patient with pericardial
   effusion and multiple pulmonary processes, which may be precipitating
   AF/Fl. Currently on amiodarone, diltiazem and metoprolol. Diltiazem
   drip was stopped in AM. If patient has another episode we will consider
   loading digoxin.
   - on telemetry
   - continue BBlocker, Increased diltiazem yesterday to 60 qid, hold on
   adding dig right now
   - continue amiodarone at current dose
   - f/u cards recs
   # Hodgkins Lymphoma: Pt is s/p EACoPP protocol on [**2144-7-21**] with
   cytoxan, doxorubacin on day 1 and etoposide on days [**2-13**]. Pt has also
   had pericardial tamponade s/p pericardiocentesis on [**2144-6-24**] and
   pericardial window on [**2143-7-25**]. Pt initiated ICE chemo reg on
   [**2144-10-9**].  Patient no longer neutropenic. Ideally should be transfused
   for hct>30 to maintain oxygenation.
   - continue Acyclovir & Bactrim ppx
   - can stop  vanc, cefepime and caspo for empiric neutropenic coverage
   - extra dose of neulasta yesterday
   - cont to trend anc
   - f/u onc recs
    # H/o megacolon/Diarrhea: Pt is s/p volvulous & sigmoid resection with
   large dilated loops of colon visible on portable films.  She has
   required intermittent rectal tubes.  recent C. Diff toxin + [**2144-8-8**] &
   [**2144-9-1**].  C. diff [**10-19**] negative.
   - pt on definitive treatment for C. diff with IV flagyl and PO vanco to
   complete course of antibiotics for 2 weeks after discontinuation of
   other antibiotics; will plan for day 1 [**10-31**] for 14 days total
   - patient had bowel movement on her own yesterday which is encouraging
   .
   # F/E/N: Diet per S&S rrecs.
   - replete lytes per onc sliding scales
   - on regular food, tolerating well, previously seen by speech and
   swallow
    # PPX: PPI (changed to po), holding heparin for low platelets,
   pneumoboots, d/c IV potassium sliding scale will cahnge to PO potassium
   PRN
    # CODE: Intubate/DNR
    # ACCESS: peripheral IV, pulled PICC, request new PICC (may be new IR
   PICC)
    # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) 893**]
    #Dispo: call out to the floor now that patient respiratory status much
   improved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-10-27**] 04:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: